US06953790B2
N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-pyridin-4-ylazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.018 mL, 0.132 mmol) was added to a solution of (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-pyridin-4-ylazepan-2-one (42 mg, 0.132 mmol) and 4-nitrophenyl chloroformate (27 mg, 0.132 mmol) in tetrahydrofuran (2 mL) at 0° C. After 1 h, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (38 mg, 0.132 mmol) and triethylamine (0.054 mL, 0.396 mmol) were added and the mixture allowed to warm to ambient temperature. After 18 h, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→95% dichloromethane/methanol (10% ammonium hydroxide/methanol)] gave the title compound (53 mg). The title compound was converted to the HCl salt with 2M HCl in ether. MS 562.2 (M+1). 1H NMR (500 MHz, CD3OD) δ 8.76 (d, J=7.6 Hz, 2H), 8.11 (d, J=7.3 Hz, 2H), 8.00 (d, J=6.4 Hz, 2H), 7.30 (t, J=7.0 Hz, 1H), 7.27-7.21 (m, 3H), 5.11 (d, J=11.5 Hz, 1H), 4.72-4.65 (m, 1H), 4.60-4.55 (m, 1H), 4.35-4.33 (m, 2H), 4.14 (d, J=16.1 Hz, 1H), 3.42-3.39 (m, 1H), 3.09-3.02 (m, 2H), 2.47-2.44 (m, 1H), 2.37-2.30 (m, 2H), 2.24-2.18 (m, 2H), 2.06-2.03 (m, 1H), 1.91 (br s, 2H).

reactant | Triethylamine | 0.132 mmol, 0.018 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-6-(2,3-difluorophenyl)-1-pyridin-4-ylazepan-2-one | 0.132 mmol, 42 mg | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C1=CC=NC=C1)=O | C17H17F2N3O
reactant | 4-nitrophenyl chloroformate | 0.132 mmol, 27 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.132 mmol, 38 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 0.396 mmol, 0.054 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-oxo-1-pyridin-4-ylazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 53 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)C1=CC=NC=C1)=O)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C29H29F2N7O3
